US08563541B2
Step 1: 1,3-dichloro-2-iodo-5-(trifluoromethoxy)benzene
2,6-Dichloro-4-(trifluoromethoxy)aniline (4.65 g, 13.2 mmol) suspended in 1 M of HCl solution (100 mL) was treated at 0° C. with sodium nitrite (0.913 g, 13.2 mmol) in water dropwise. After 15 minutes at 0° C., potassium iodide (2.20 g, 13.2 mmol) in water was added and the solution was heated at 40° C. for 15 min. The solution was quenched with saturated aq. Na2S2O3 solution (100 mL), and extracted with ethyl acetate (300 mL). The organic phase was washed with 0.1 N HCl solution satd. aq. NaHCO3 sol. (500 mL), and dried over sodium sulfate. Purification by silica gel chromatography (10-40% EtOAc/hexanes) afforded the desired product as a yellow solid.

reactant | 2,6-Dichloro-4-(trifluoromethoxy)aniline | 13.2 mmol, 4.65 g | ClC1=C(N)C(=CC(=C1)OC(F)(F)F)Cl | C7H4Cl2F3NO
reactant | sodium nitrite | 13.2 mmol, 0.913 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 13.2 mmol, 2.20 g | [I-].[K+]
solvent | HCl | 1 M, 100 mL | Cl | ClH
solvent | water | O | H2O
product | 1,3-dichloro-2-iodo-5-(trifluoromethoxy)benzene | ClC1=C(C(=CC(=C1)OC(F)(F)F)Cl)I | C7H2Cl2F3IO
